US07414061B2
a) 4-[4-(5-Methoxymethyl-3-phenyl-isoxazol-4-yl)-imidazol-1-yl]benzonitrile
As described for Example 1f, 3-phenyl-4-(1H-imidazol-4-yl)-5-methoxymethyl-isoxazole (128 mg, 0.50 mmol) was converted, using 4-fluorobenzonitrile instead of 1-(4-fluorophenyl)-ethanone, to the title compound (75 mg, 42%) which was obtained as an off-white solid. MS: m/e=357.0[M+H]+.

reactant | 3-phenyl-4-(1H-imidazol-4-yl)-5-methoxymethyl-isoxazole | 0.50 mmol, 128 mg | C1(=CC=CC=C1)C1=NOC(=C1C=1N=CNC1)COC | C14H13N3O2
reactant | 4-fluorobenzonitrile | FC1=CC=C(C#N)C=C1 | C7H4FN
product | 4-[4-(5-Methoxymethyl-3-phenyl-isoxazol-4-yl)-imidazol-1-yl]benzonitrile | 75 mg, 42% | COCC1=C(C(=NO1)C1=CC=CC=C1)C=1N=CN(C1)C1=CC=C(C#N)C=C1 | C21H16N4O2
